US08623859B2
2,6-dichloro-N-methyl-N-[(4-{[4-(2-pyridin-4-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide
5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (465 mg, 1.3 mmol) was dissolved in DCE (40 mL) and CDI (422 mg, 2.6 mmol) was added. The reaction was stirred for 1 h. 4 mL of activated acid solution in DCE was added to a vial containing 1-[2-(pyridin-4-yl)ethyl]piperazine (50 mg, 0.261 mmol). The reaction was stirred at ambient temperature for 3 days, then washed with saturated aqueous NaHCO3. The organic layer was dried over MgSO4 and shaken with PL-MIA and Ambersep resins, then filtered. The solvent was removed in vacuo and a portion of the crude product purified using prep method B.

reactant | 5-({[(2,6-dichlorophenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 1.3 mmol, 465 mg | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O | C13H11Cl2NO5S
reactant | CDI | 2.6 mmol, 422 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[2-(pyridin-4-yl)ethyl]piperazine | 0.261 mmol, 50 mg | N1=CC=C(C=C1)CCN1CCNCC1 | C11H17N3
solvent | DCE | 40 mL | ClCCCl | C2H4Cl2
product | 2,6-dichloro-N-methyl-N-[(4-{[4-(2-pyridin-4-ylethyl)piperazin-1-yl]carbonyl}furan-2-yl)methyl]benzenesulfonamide | ClC1=C(C(=CC=C1)Cl)S(=O)(=O)N(CC=1OC=C(C1)C(=O)N1CCN(CC1)CCC1=CC=NC=C1)C | C24H26Cl2N4O4S
